US08455665B2
(R)-2-(4-Chloro-2-methylphenoxy)-2-(S)-pyrrolidin-3-yl-ethanol
To a solution of (S)-3-[(R)-2-benzyloxy-1-(4-chloro-2-methylphenoxy)ethyl]-pyrrolidine.TFA (4.6 mg, 10 μmol) in EtOH (2.0 mL) at room temperature, was added concentrated HCl (˜50 μL). To the stirred mixture was added 20% Pd(OH)2/C (50 wt % water, 4.0 mg). The resulting mixture was degassed and flushed with hydrogen three times and then hydrogenated under a hydrogen balloon for 25 minutes. The mixture was filtered and the filtrate was concentrated. The resulting residue was redissolved in a mixture of AcOH (0.5 mL) and water (1.0 mL), filtered and purified by reverse phase preparative HPLC to yield the title compound as a mono-TFA salt (0.6 mg, 98% purity). MS m/z: [M+H]+ calcd for C13H18ClNO2, 256.10. found 256.2.

reactant | (S)-3-[(R)-2-benzyloxy-1-(4-chloro-2-methylphenoxy)ethyl]-pyrrolidine | C(C1=CC=CC=C1)OC[C@H](OC1=C(C=C(C=C1)Cl)C)[C@@H]1CNCC1 | C20H24ClNO2
reactant | TFA | 10 μmol, 4.6 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | ˜50 μL | Cl | ClH
solvent | EtOH | 2.0 mL | CCO | C2H6O
catalyst | Pd(OH)2/C | 4.0 mg | [OH-].[OH-].[Pd+2]
product | (R)-2-(4-Chloro-2-methylphenoxy)-2-(S)-pyrrolidin-3-yl-ethanol | ClC1=CC(=C(O[C@H](CO)[C@H]2CNCC2)C=C1)C | C13H18ClNO2
